### ISSUE TITLE
`induction` passes wrong instance to function application

### ISSUE THREAD

**Issue by llllvvuu** [leanprover/lean4#6544]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

`induction` will use instances on the original variable in function applications on the new variable. The tactic will succeed, and indeed create new goals, but the proof will have a type error.

### Context

This was discovered during usage of https://github.com/leanprover-community/repl, where we found a successful sequence of tactics resulting in an unsuccessful proof.

### Steps to Reproduce

```lean
example (n: Nat) [NeZero n] : (0 : Fin n) = 0 := by
  induction n <;> sorry
```

**Expected behavior:** An error on the tactic as it should try to synthesize `NeZero 0` and `NeZero n` (where the original `n` is `succ` of this `n`) and both should fail.

**Actual behavior:** The tactic uses the original `NeZero n✝` instance to synthesize `Fin.instOfNat`, for the new `(0 : Fin n)`, which is not type-correct. Yet the tactic does not fail.

### Versions

Lean 4.16.0-rc1
Target: x86_64-unknown-linux-gnu
live.lean-lang.org

### Additional Information

Initially, https://github.com/leanprover/lean4/issues/4246 looked similar, but I think it's not the same.

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by edegeltje** [comment]
in particular, what happens here is that the motive that is generated is wrong/bad. in order to get the motive, it takes all occurrences of `n` in the goal and replaces them with the argument from the motive. in this case that results in not replacing the instance, since there `n` only occurs in the *type*, not in the *term*. effectively, this means that induction greedily makes the motive "variable" rather than "constant".

**Comment by edegeltje** [comment]
another interesting comparison:
```lean4
class Foo (α : Type) where
  x : Nat

instance : Foo Nat where
  x := 0

@[elab_as_elim]
def Foo.induction (P : ∀ (α : Type) [Foo α], Prop) (nat : P Nat) (α : Type) (ohno : Foo α) : P α := sorry

set_option pp.explicit true

example (α : Type) {noninst : Foo α} [foo:Foo α] : noninst.x = foo.x := by? -- no issues; lean generalizes noninst
  induction α, inst using Foo.induction with
  | nat => sorry

example (α : Type) [inst : Foo α] {foo : Foo α} : inst.x = foo.x := by? -- issue; lean does not generalize inst
  induction α, noninst using Foo.induction with
  | nat => sorry

```
so it seems lean is able to realize that implicit arguments should be generalized, but not instance arguments
